US04302241
To a mixture of 5 g dimethyl 2-(chlorosulfonyl)-1,3-benzenedicarboxylic acid and 1.4 g sodium bicarbonate in 25 ml tetrahydrofuran (dried over alumina) at 0°-5° was added, dropwise, a solution of 0.4 ml ammonia in 5 ml dry tetrahydrofuran. After stirring for 2 hours, the solution was evaporated, the resulting solid was washed with methylene chloride, then with water to give 2.4 g, m.p. 169° of dimethyl 2-(aminosulfonyl)-1,3-benzenedicarboxylic acid.

reactant | dimethyl 2-(chlorosulfonyl)-1,3-benzenedicarboxylic acid | 5 g | CC1=CC(=C(C(=C1C(=O)O)S(=O)(=O)Cl)C(=O)O)C | C10H9ClO6S
reactant | sodium bicarbonate | 1.4 g | C([O-])(O)=O.[Na+]
reactant | ammonia | 0.4 ml | N | H3N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | dimethyl 2-(aminosulfonyl)-1,3-benzenedicarboxylic acid | 2.4 g | CC1=CC(=C(C(=C1C(=O)O)S(=O)(=O)N)C(=O)O)C | C10H11NO6S
